US07820699B2
73.1 To a solution of 10.96 g of 4-bromo-2-fluoro-benzoic acid in 40 ml of DMSO was added subsequently 6.67 g of 2-hydroxypyridine, 1.10 g of 8-hydroxyquinoline, 1.43 g of Cu(I)I and 7.61 g of K2CO3 and the mixture was heated to 150° C. for 18 h. The suspension was diluted with water, filtered, the residue was washed with AcOEt, triturated with MeOH, filtered and dried to give 5.77 g of 2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-benzoic acid. MS: 234.1 (M+H)+

reactant | 4-bromo-2-fluoro-benzoic acid | 10.96 g | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | 2-hydroxypyridine | 6.67 g | OC1=NC=CC=C1 | C5H5NO
reactant | 8-hydroxyquinoline | 1.10 g | OC=1C=CC=C2C=CC=NC12 | C9H7NO
reactant | K2CO3 | 7.61 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 40 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-benzoic acid | 5.77 g | FC1=C(C(=O)O)C=CC(=C1)N1C(C=CC=C1)=O | C12H8FNO3
